US06417362B1
Benzhydrylamine (1.83 g) was dissolved in dichloromethane (3.0 ml). Carbonyldiimidazole (1.78 g) was added to the solution. The mixture was stirred at room temperature overnight. Water and dichloromethane were added thereto. The mixture was stirred, and then extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate. The solvent was then removed by distillation to give imidazole-1-carboxylic acid benzhydrylamide.

reactant | Benzhydrylamine | 1.83 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | Carbonyldiimidazole | 1.78 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Water | O | H2O
solvent | dichloromethane | 3.0 ml | ClCCl | CH2Cl2
product | imidazole-1-carboxylic acid benzhydrylamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)N1C=NC=C1 | C17H15N3O
